US09169248B2
Synthesis of N-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]-2-[2-methyl-4-(trifluoromethyl)imidazol-1-yl]propanamide
To a solution of 1-(4-fluorophenyl)-5-isopropylpyrazol-4-amine (0.03 g, 0.14 mmol) in DMF (1.0 mL) was added 2-[2-methyl-4-(trifluoromethyl)imidazol-1-yl]propanoic acid (0.031 g, 0.14 mmol), followed by diisopropylethylamine (0.042 g, 0.32 mmol) and HATU (0.057 g, 0.15 mmol). After stirring at room temperature for 1 h, the reaction was diluted with water and the aqueous layer was extracted with ethyl acetate (2×5 mL). The combined organic layers were washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. The resulting crude product was purified by reverse phase HPLC (C18 column, acetonitrile-H2O with 0.1% TFA as eluent) to give the title compound as a white solid (0.0145 g, 0.034 mmol, 25%). 1H NMR (400 MHz, CDCl3) δ 7.92 (d, J=0.6 Hz, 1H), 7.46 (q, J=1.2 Hz, 1H), 7.33-7.24 (m, 2H), 7.21-7.11 (m, 2H), 6.63 (s, 1H), 4.92 (q, J=7.3 Hz, 1H), 2.93 (m, 1H), 2.49 (s, 3H), 1.89 (d, J=7.3 Hz, 3H), 1.04 (dd, J=10.3, 7.2 Hz, 6H); MS: (ES) m/z calculated for C20H21F4N5O [M+H]+ 424.2, found 424.0.

reactant | 1-(4-fluorophenyl)-5-isopropylpyrazol-4-amine | 0.14 mmol, 0.03 g | FC1=CC=C(C=C1)N1N=CC(=C1C(C)C)N | C12H14FN3
reactant | 2-[2-methyl-4-(trifluoromethyl)imidazol-1-yl]propanoic acid | 0.14 mmol, 0.031 g | CC=1N(C=C(N1)C(F)(F)F)C(C(=O)O)C | C8H9F3N2O2
reactant | diisopropylethylamine | 0.32 mmol, 0.042 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.15 mmol, 0.057 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]-2-[2-methyl-4-(trifluoromethyl)imidazol-1-yl]propanamide | 0.034 mmol, 0.0145 g, 25% | FC1=CC=C(C=C1)N1N=CC(=C1C(C)C)NC(C(C)N1C(=NC(=C1)C(F)(F)F)C)=O | C20H21F4N5O
